US07268159B2
1-(4-Nitro-benzyl)-1H-indole-4-carboxylic acid methyl ester was prepared from 1H-indole-4-carboxylic acid methyl ester and 4-nitrobenzyl bromide followed the procedure of Example 3 Step 1 as a yellow powder: 1H NMR (DMSO-d6) δ 3.90 (s, 3H), 5.69 (s, 2H), 7.05(dd, J=3.1, 0.9 Hz, 1H), 7.22 (t, J=7.6 Hz, 1H), 7.36 (d, J=8.9 Hz, 2H), 7.75 (td, J=7.6, 3.1 Hz, 3H), 8.18 (d, J=8.9 Hz, 2H); MS (ESI) m/z 311 (MH+), 309 ([M−H]−); Anal. calcd for C17H14N2O4: C, 65.80; H, 4.55; N, 9.03. Found: C, 65.81; H, 4.50; N, 8.98.

reactant | 1H-indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=CNC2C=CC1 | C10H9NO2
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 1-(4-Nitro-benzyl)-1H-indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=CN(C2C=CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
